US07074800B1
Nitrogen was bubbled through a mixture of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (335 mg, 0.68 mmol), (prepared as described for the starting material in Example 67), potassium carbonate (281.5 mg, 2.04 mmol), 5-hydroxy-1methylindole (100 mg, 0.68 mmol) and DMA (4.0 ml) for 5 minutes. The mixture was then stirred at 90° C. for 4 hours under an atmosphere of nitrogen and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated under vacuum. The residue was purified by trituration with methanol then water to give 6-methoxy-4-(1-methylindol-5-yloxy)-7-(3-piperidinopropoxy)quinazoline (148 mg, 49%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.68 mmol, 335 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | potassium carbonate | 2.04 mmol, 281.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-1methylindole | 0.68 mmol, 100 mg | OC=1C=C2C=CN(C2=CC1)C | C9H9NO
solvent | DMA | 4.0 ml | CC(=O)N(C)C | C4H9NO
product | 6-methoxy-4-(1-methylindol-5-yloxy)-7-(3-piperidinopropoxy)quinazoline | 148 mg, 49% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCCC1)OC=1C=C2C=CN(C2=CC1)C | C26H30N4O3
